US08003703B2
(i) 5-Chloro-2-methoxy-benzenethiol
Triphenylphosphine (11.4 g) was added portionwise to a stirred solution of 5-chloro-2-methoxybenzenesulphonyl chloride (3.0 g) in THF (30 ml). Water (4 ml) was added and the mixture stirred at RT for 2 h, after which the reaction was diluted with water (25 ml) then 2M sodium hydroxide solution and washed with ether. The aqueous layer was acidified with 2M hydrochloric acid and extracted with ethylacetate. The organic layer was dried and evaporated under reduced pressure, yield 3.1 g.

reactant | Triphenylphosphine | 11.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-chloro-2-methoxybenzenesulphonyl chloride | 3.0 g | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 25 ml | O | H2O
solvent | Water | 4 ml | O | H2O
product | 5-Chloro-2-methoxy-benzenethiol | ClC=1C=CC(=C(C1)S)OC | C7H7ClOS
